US04599344
N-[4-(3-(3-Oxo-1-azabicyclo[2.2.2]oct-2-yl)propyl)phenyl]-methanesulfonamide hydrochloride
In a manner similar to Example X, react 2-[3-(4-aminophenyl)propyl]-1-azabicyclo[2.2.2]octan-3-one with methanesulfonyl chloride to afford the title compound.

reactant | 2-[3-(4-aminophenyl)propyl]-1-azabicyclo[2.2.2]octan-3-one | NC1=CC=C(C=C1)CCCC1N2CCC(C1=O)CC2 | C16H22N2O
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | N-[4-(3-(3-Oxo-1-azabicyclo[2.2.2]oct-2-yl)propyl)phenyl]-methanesulfonamide hydrochloride | Cl.O=C1C(N2CCC1CC2)CCCC2=CC=C(C=C2)NS(=O)(=O)C | InChI=1S/C17H24N2O3S.ClH/c1-23(21,22)18-15-7-5-13(6-8-15)3-2-4-16-17(20)14-9-11-19(16)12-10-14;/h5-8,14,16,18H,2-4,9-12H2,1H3;1H
